US09284323B2
Preparation of (S)-ethyl 2-(6-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-tert-butoxyacetate:
To a solution of (S)-ethyl 2-(6-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-hydroxyacetate (2 g, 4.26 mmol) in tert-butylacetate (30 mL) was added 70% perchloric acid (1.10 mL, 4.69 mmol). The reaction mixture was stirred for 2.5 hours and quenched with solid sodium bicarbonate and stirred for 45 minutes. Water and solid sodium bicarbonate were carefully added and stirred for another 15 minutes. The mixture was diluted with ethyl acetate, washed with saturated bicarbonate solution (2×), brine, dried (MgSO4), filtered, concentrated and purified by flash column chromatography (silica gel, 0 to 20% ethyl acetate/hexanes) to give the desired compound. 1H NMR (400 MHz, CDCl3) δ: 7.96 (s, 1H), 7.90 (d, J=10.2 Hz, 1H), 7.62 (d, J=9.2 Hz, 1H), 7.58 (s, 1H), 5.90 (s, 1H), 4.26-4.08 (m, 2H), 2.53 (s, 3H), 1.20 (s, 9H), 1.17 (t, J=7.1 Hz, 3H).

reactant | (S)-ethyl 2-(6-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-hydroxyacetate | 4.26 mmol, 2 g | BrC=1C=C2C=C(C(=C(C2=CC1)OS(=O)(=O)C(F)(F)F)[C@@H](C(=O)OCC)O)C | C16H14BrF3O6S
reactant | perchloric acid | 4.69 mmol, 1.10 mL | Cl(=O)(=O)(=O)O | ClHO4
solvent | tert-butylacetate | 30 mL | C(C)(C)(C)OC(C)=O | C6H12O2
product | (S)-ethyl 2-(6-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-tert-butoxyacetate | BrC=1C=C2C=C(C(=C(C2=CC1)OS(=O)(=O)C(F)(F)F)[C@@H](C(=O)OCC)OC(C)(C)C)C | C20H22BrF3O6S
